US07691854B2
Diethyl 2-amino-4-(4-cyanophenyl)-6-methyl-1-(3-methylphenyl)-1,4-dihydro-3,5-pyridine-dicarboxylate
Under argon, 100 mg (0.46 mmol) ethyl(2E)-3-[(3-methylphenyl)amino]-2-butenoate (preparation analogously to Example 1A), 59.80 mg (0.46 mmol) 4-formylbenzonitrile and 51.58 mg (0.46 mmol) ethyl cyanoacetate are dissolved in 2 ml ethanol. 77.66 mg (90 μl, 0.91 mmol) piperidine are added to the mixture which is stirred at reflux overnight. After the reaction is finished, the mixture is purified by preparative HPLC followed by column chromatography on silica with dichloromethane as eluent.

reactant | ethyl(2E)-3-[(3-methylphenyl)amino]-2-butenoate | 0.46 mmol, 100 mg | CC=1C=C(C=CC1)N/C(=C/C(=O)OCC)/C | C13H17NO2
reactant | 4-formylbenzonitrile | 0.46 mmol, 59.80 mg | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | ethyl cyanoacetate | 0.46 mmol, 51.58 mg | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 0.91 mmol, 90 μl, 77.66 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | Diethyl 2-amino-4-(4-cyanophenyl)-6-methyl-1-(3-methylphenyl)-1,4-dihydro-3,5-pyridine-dicarboxylate | NC=1N(C(=C(C(C1C(=O)OCC)C1=CC=C(C=C1)C#N)C(=O)OCC)C)C1=CC(=CC=C1)C | C26H27N3O4
